US08420629B2
Step 3. 1-[(1-methylcyclopropyl)sulfonyl]-3-[(triethylsilyl)oxy]azetidine
To a solution of 1-(cyclopropylsulfonyl)-3-[(triethylsilyl)oxy]azetidine (1.0 g, 3.4 mmol) in tetrahydrofuran (20 mL) at −78° C. was added 2.50 M of n-butyllithium in hexane (1.37 mL, 3.43 mmol) dropwise. After stirring at this temperature for 1 hour, methyl iodide (0.224 mL, 3.60 mmol) was added. After 30 minutes, the reaction temperature was raised to 0° C. and stirred for 50 minutes. The reaction was quenched by the addition of saturated sodium bicarbonate, followed by brine and the product was extracted with ethyl acetate. The extracts were dried over sodium sulfate, decanted and concentrated. Flash column chromatography eluting with a gradient of 0-30% ethyl acetate in hexanes afforded product (890 mg, 85%).

reactant | 1-(cyclopropylsulfonyl)-3-[(triethylsilyl)oxy]azetidine | 3.4 mmol, 1.0 g | C1(CC1)S(=O)(=O)N1CC(C1)O[Si](CC)(CC)CC | C12H25NO3SSi
reactant | n-butyllithium | 2.50 M | C(CCC)[Li]
reactant | hexane | 3.43 mmol, 1.37 mL | CCCCCC | C6H14
reactant | methyl iodide | 3.60 mmol, 0.224 mL | CI | CH3I
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-[(1-methylcyclopropyl)sulfonyl]-3-[(triethylsilyl)oxy]azetidine | CC1(CC1)S(=O)(=O)N1CC(C1)O[Si](CC)(CC)CC | C13H27NO3SSi
